US08247610B2
a) 2-[5-(2,3-Dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester
A solution of Pd(OAc)2 (6 mg, 0.025 mmol) and rac-BINAP (23 mg, 0.037 mmol) in THF (2.5 mL) was stirred under nitrogen for 10 min. Cs2CO3 (95 mg, 0.29 mmol), 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester (100 mg, 0.21 mmol) and indoline (0.028 mL, 0.25 mmol) were added and the reaction mixture was stirred under nitrogen at 65° C. for 48 h. The solution was then partitioned between EtOAc (10 mL) and H2O (10 mL). The aqueous layer was extracted with EtOAc (2×10 mL). The organic layers were washed with brine, dried (MgSO4) and concentrated to yield an oil. The residue was purified by flash chromatography (0 to 10% EtOAc in petroleum ether) to give the title compound. The resulting oil was used crude in the next step.

reactant | rac-BINAP | 0.037 mmol, 23 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.29 mmol, 95 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid methyl ester | 0.21 mmol, 100 mg | COC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C21H20F6O5S
reactant | indoline | 0.25 mmol, 0.028 mL | N1CCC2=CC=CC=C12 | C8H9N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.025 mmol, 6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[5-(2,3-Dihydro-indol-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)N1CCC2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F)=O | C28H28F3NO2
